US06069157
5-Amino-4-(2-chlorophenyl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole
To a rapidly stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (0.31 g) in toluene (2 ml) containing tetrakis(triphenylphosphine)palladium(0) (0.03 g) was added saturated aqueous sodium hydrogen carbonate solution (3 ml) and a solution of 2-chlorophenylboronic acid (0.45 g) in ethanol (1 ml). The mixture was heated under reflux for 3.5 hours, cooled and then poured into ether (50 ml) and water (50 ml). The layers were separated and the aqueous phase extracted with a second portion of ether (50 ml). The combined organic layers were washed with water (2×50 ml), brine (50 ml) and then dried (Na2SO4) and evaporated. The residue was purified by column chromatography on silica gel (50 g) eluted with dichloromethane. After combination and evaporation of suitable fractions the residue was further purified by HPLC. Combination and processing of suitable fractions gave the title compound as a pale brown crystalline solid, m.p. 192-3° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 0.31 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | sodium hydrogen carbonate | 3 ml | C(O)([O-])=O.[Na+]
reactant | 2-chlorophenylboronic acid | 0.45 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 ml | O | H2O
product | 5-Amino-4-(2-chlorophenyl)-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=C(C=CC=C1)Cl | C17H8Cl3F3N4
